US07105544B2
N-(3-{4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2,2,2-TRIPHENYLACETAMIDE
Example 105 was prepared from triphenylacetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.34–7.22 (m, 19H), 6.91 (d, 1H, J=7.6 Hz), 6.30 (t, 1H, J=5.6 Hz), 3.43 (dd, 2H, J=6.4, 12.0 Hz), 2.87 (d, 2H, J=12.0 Hz), 2.42 (m, 1H), 2.30 (t, 2H, J=6.8 Hz), 2.17 (s, 3H), 1.93 (t, 2H, J=11.6 Hz), 1.74–1.66 (m, 4H), 1.60–1.50 (m, 2H); ESMS m/e: 546.2 (M+H)+.

reactant | triphenylacetic acid | C1(=CC=CC=C1)C(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C)=O | C16H25N3O
product | N-(3-{4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2,2,2-TRIPHENYLACETAMIDE | C(C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C36H39N3O2
